US04683239
3-[[4-(trans-Octahydro-3-indolizinyl)phenyl]thio]-benzeneamine
A solution of 2 g (0.016 mole) of 3-aminothiophenol in 25 mL of dry DMF was added to 0.016 mole of sodium hydride (from 0.77 g of 50% sodium hydride washed with hexane to remove the oil). After all the sodium hydride has reacted, a solution of 2.8 g (0.01 mole) of trans-3-(4-bromophenyl)octahydroindolizine in 20 ml of dry DMF and 0.72 g (0.005 mole) of cuprous oxide were added. The mixture was refluxed overnight. Then an additional 0.35 g (0.002 mole) of cuprous oxide was added to the reaction mixture, and the mixture was refluxed for two days. The reaction was the cooled to room temperature, filtered and the DMF evaporated in vacuo to give a brown oil. The oil was flash chromatographed in SiO2 using 75% hexane, 25% EtOAc as the eluant. The product bearing fractions were pooled and the solvent evacuated in vacuo to give 1.5 g (46% yield) of the title compound as a red oil.

reactant | 3-aminothiophenol | 0.016 mole, 2 g | NC=1C=C(C=CC1)S | C6H7NS
reactant | sodium hydride | 0.016 mole | [H-].[Na+]
reactant | sodium hydride | 0.77 g | [H-].[Na+]
reactant | trans-3-(4-bromophenyl)octahydroindolizine | 0.01 mole, 2.8 g | BrC1=CC=C(C=C1)[C@@H]1CC[C@@H]2CCCCN12 | C14H18BrN
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-[[4-(trans-Octahydro-3-indolizinyl)phenyl]thio]-benzeneamine | 1.5 g, 46% yield | C1C[C@H](N2CCCC[C@@H]12)C1=CC=C(C=C1)SC=1C=C(C=CC1)N | C20H24N2S
